US07115600B2
[3-(4-Pyrrolidin-1-ylmethyl-phenyl)-cyclobutyl]-methanol
To a stirring solution of crude 1-[4-(3-benzyloxymethyl-cyclobutyl)-benzyl]-pyrrolidine TFA salt prepared above (61.5 mmol) in 250 mL of ethyl alcohol was added palladium black (4.0 g, 20% by wt). The Parr bottle was then pressurized with H2 to 45 psi. After complete consumption of starting material as evident by LRMS the reaction vessel was evacuated (removal of H2 gas), then the reaction was filtered through a plug of Celite, and concentrated under reduced pressure. The residual was diluted with CH2Cl2 and washed with a saturated solution of NaHCO3. The aqueous layer was back extracted with 3:1 CHCl3:iPrOH. The organic layers were dried over magnesium sulfate, filtered through a fritted funnel and concentrated under reduced pressure. Purification of this material was accomplished by flash chromatography, using a Biotage column 75 large, eluting with a gradient of 2% MeOH/CH2Cl2 w/0.2% NH4OH, through 20% MeOH/CH2Cl2 w/0.2% NH4OH. The product containing fractions were collected and concentrated, 13C NMR revealed the presence of TFA. The product was free based by reaction with aqueous K2CO3, and extracted with 3:1 CHCl3:iPrOH to yield the title compound (11.9 g, 79% yield) as a colorless oil and a mixture of cis:trans isomers.

reactant | 1-[4-(3-benzyloxymethyl-cyclobutyl)-benzyl]-pyrrolidine TFA salt | OC(=O)C(F)(F)F.C(C1=CC=CC=C1)OCC1CC(C1)C1=CC=C(CN2CCCC2)C=C1
reactant | iPrOH | CC(C)O | C3H8O
solvent | ethyl alcohol | 250 mL | C(C)O | C2H6O
catalyst | palladium black | 4.0 g | [Pd] | Pd
product | [3-(4-Pyrrolidin-1-ylmethyl-phenyl)-cyclobutyl]-methanol | 11.9 g, 79% yield | N1(CCCC1)CC1=CC=C(C=C1)C1CC(C1)CO | C16H23NO
